Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Back Pain

 
Major Surgical or Invasive Procedure:
___: Intubation
 
History of Present Illness:
___ yo M w/ morbid obesity (uses CPAP continuously, 
hypoventilation syndrome), IDDM, chronic LBP, who presents from 
OSH d/t concern for cauda equina. Patient was on a step ladder 
about 4 feet in the air when he lost his balance and fell down 
yesterday onto grass, fell on his buttock/back. Has had a 
worsening lower back pain since then, started 1 day afterwards. 
In addition, he has had a few episodes of urinary incontinence, 
and reports that his lower extremities are weaker and associated 
with decreased sensation in both his legs. Patient denied 
fever/chills, nausea/vomiting, diarrhea, chest pain, dyspnea, 
additional complaints. Initially seen at OSH but sent to ___ 
for concern of caude equina.

In the ED, initial vitals:  81 144/70 12 94% RA
-Labs notable for WBC 15.8 (which is chronic), mild anemia of 
___.
-Given concern for caude equina, pt had a code cord called, CT 
was a poor study (no localized ___ defect) as pt could not lay 
flat and thus it was decided to intubate pt and obtain MRI.
-MRI showed some disc bulging/narrowing at L3-4 but otherwise 
unremarkable.
-Spine reviwed MRI and did not see any need for surgical 
intervention.
-Pt was given Fent/Prop gtt for sedation while intubated, and 
also lorazepam/dilaudid.
On transfer, vitals were: sedated 97.8 61 124/57 18 92% 
Intubation
 
On arrival to the MICU, pt is intuabted and sedated.

Review of systems:  
Unable to obtain

 
Past Medical History:
Morbid obesity c/b OSA/hypoventilation, on CPAP 
IDDM
HTN
HPL
?CHF, unclear EF
Pulmonary HTN
Asthma
COPD
Chronic back pain
Mood/anxiety disorder
Hx of SI/SA
Erectile dysfunction
B/l femoral head AVN
 
Social History:
___
Family History:
-Maternal uncles died in their late-___ or ___ of cardiac causes 
(d. ___ ; ___ s/p CABG @___ ; ___ ; ___ s/p CABG @___) 
-Mother is alive, but morbidly obese with multiple medical 
problems 
-Dad is alive, relatively healthy
 
Physical Exam:
ADMISSION PHYSICAL EXAM
Vitals: T 98.3, 72, 145/77, 91% on CMV
GENERAL: intubated and sedated 
HEENT: ETT in place 
NECK: thick neck 
LUNGS: mechanical breath sounds  
CV: Regular rate and rhythm, no MRG 
ABD: obese, soft, no rebound or guarding 
EXT: Warm, well perfused, 1+ pitting edema bilaterally 
SKIN:  dry scaling skin on feet, erythema under skin folds
 
DISCHARGE PHYSICAL EXAM:
Vitals: Tm 98.3, 133/63, 88, 21, 92% on CPAP (50% FiO2, EPAP 8 / 
IPAP 10)
GENERAL: Alert and oriented x3, NAD
HEENT: Anicteric sclera, conjunctival injection bilaterally, MMM
NECK: thick neck
LUNGS: Clear to aucultation anteriorly
CV: Regular rate and rhythm, no MRG
ABD: obese, soft, no rebound or guarding  
EXT: Warm, well perfused, 1+ pitting edema bilaterally
NEURO: No sensation to soft touch in ___, intact 
sensation to pressure in ___, able to move ___ 
___ but limited by pain. UEs motor/sensory intact 
bilaterally. A&Ox3.

 
Pertinent Results:
=== ADMISSION LABS ===

___ 03:50PM BLOOD WBC-15.8* RBC-4.87 Hgb-13.5* Hct-39.1* 
MCV-80* MCH-27.8 MCHC-34.7 RDW-16.4* Plt ___
___ 03:50PM BLOOD Neuts-81.4* Lymphs-14.3* Monos-3.2 
Eos-0.6 Baso-0.5
___ 03:50PM BLOOD Glucose-228* UreaN-7 Creat-0.7 Na-134 
K-4.7 Cl-96 HCO3-27 AnGap-16

=== IMAGING ===
 
CT Spine (___):
1. No evidence of fracture or malalignment. 
2. Extremely limited intrathecal detailed of the size of the 
patient, but at least moderate canal narrowing due to a 
degenerative disc osteophyte complex at the L3-4 level as above 
3. Partial right lower lobe atelectasis probably associated with 
marked 
elevation of the right hemidiaphgram. 
  
MRI SPINE (___):
1. Mild thoracic and lumbar spondylosis as described above. 
2. No evidence of cord or cauda equina compression. 

CXR
1.  ET tube terminating 5 cm above the carina. 
2.  Low lung volumes.  Multifocal airspace opacities in the 
right middle and lower lobe are worrisome for aspiration versus 
pneumonia, and correlate with consolidations identified on 
recent CT examination 

=== DISCHARGE LABS ===

___ 05:54AM BLOOD WBC-17.2* RBC-4.95 Hgb-13.5* Hct-40.7 
MCV-82 MCH-27.3 MCHC-33.2 RDW-16.5* Plt ___
___ 05:54AM BLOOD Neuts-74.7* ___ Monos-4.4 Eos-2.5 
Baso-0.4
___ 07:40AM BLOOD Glucose-156* UreaN-25* Creat-1.0 Na-139 
K-3.9 Cl-99 HCO3-30 AnGap-14
___ 07:40AM BLOOD Mg-1.___ year old male with history of morbid obesity, obesity 
hypoventilation syndrome (uses CPAP continuously) and chronic 
low back pain who was transferred to ___ from an OSH for 
concern regarding cauda equina syndrome.

# Acute on Chronic Back Pain: The patient developed acute on 
chronic low back pain in setting of a fall. At the OSH he 
reported urinary incontinence and bilateral lower extremity 
weakness concerning for cauda equina syndrome so he was 
transferred to ___ for further evaluation. On arrival, he 
underwent CT and MRI of the spine which revealed no evidence of 
cord compression. Patient was seen by the Ortho-Spine service 
who felt that there was no indication for surgery. He had 
required intubation in order to lay flat and still for the MRI - 
intubation and extubation were without complication. After 
extubation pain management was continued. Oxycontin was 
increased from 80 to 100mg BID and prn oxycodone was continued. 
Gabapentin, lidocaine patch, standing tylenol and naproxen were 
also started for pain control during his admission. Patient was 
evaluated by physical therapy who recommended rehab.

=== TRANSITIONAL ISSUES ===

# Acute on Chronic Back Pain:
- Started gabapentin, lidocaine patch, standing tylenol and 
naproxen while inpatient. Oxycontin was increased from 80 to 
100mg BID and prn oxycodone was continued. 

# Choronic Leukocytosis: Unclear etiology. Normal differential.
- Outpatient Heme-Onc follow up
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 2 PUFF IH Q4H:PRN shortness of breath or 
wheezing 
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 40 mg PO DAILY 
4. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
5. Furosemide 80 mg PO BID 
6. OxycoDONE (Immediate Release)  30 mg PO Q4H:PRN pain 
7. OxyCODONE SR (OxyconTIN) 80 mg PO Q12H 
8. Pantoprazole 40 mg PO Q12H 
9. Aluminum-Magnesium Hydrox.-Simethicone 10 mL PO QID:PRN 
stomach discomfort 
10. carisoprodol 350 mg oral BID:PRN pain 
11. Docusate Sodium 100 mg PO HS constipation 
12. Lorazepam 2 mg PO Q8H:PRN anxiety 
13. MetFORMIN (Glucophage) 1000 mg PO BID 
14. TraZODone 100 mg PO HS 
15. Carbamide Peroxide 6.5% ___ DROP AD BID 
16. 70/30 100 Units Breakfast
Humalog ___ 90 Units BedtimeMax Dose Override Reason: home 
meds

 
Discharge Medications:
1. Albuterol Inhaler 2 PUFF IH Q4H:PRN shortness of breath or 
wheezing 
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 40 mg PO DAILY 
4. Docusate Sodium 100 mg PO HS constipation 
5. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
6. Furosemide 80 mg PO BID 
7. 70/30 100 Units Breakfast
Humalog ___ 90 Units Bedtime
Insulin SC Sliding Scale using HUM InsulinMax Dose Override 
Reason: home meds

8. Pantoprazole 40 mg PO Q12H 
9. TraZODone 100 mg PO HS 
10. Acetaminophen 1000 mg PO Q8H 
11. Gabapentin 300 mg PO TID 
12. Lidocaine 5% Patch 1 PTCH TD QAM 
13. Naproxen 500 mg PO Q12H Duration: 7 Days 
14. Polyethylene Glycol 17 g PO DAILY 
15. Bisacodyl 10 mg PO/PR DAILY:PRN constipation 
16. Senna 8.6 mg PO BID 
17. Tizanidine 4 mg PO TID 
18. Aluminum-Magnesium Hydrox.-Simethicone 10 mL PO QID:PRN 
stomach discomfort 
19. Carbamide Peroxide 6.5% ___ DROP AD BID 
20. carisoprodol 350 mg oral BID:PRN pain 
21. Lorazepam 2 mg PO Q8H:PRN anxiety 
22. MetFORMIN (Glucophage) 1000 mg PO BID 
23. OxycoDONE (Immediate Release)  30 mg PO Q6H:PRN pain 
RX *oxycodone 30 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*15 Tablet Refills:*0
24. OxyCODONE SR (OxyconTIN) 100 mg PO Q12H 
RX *oxyCODONE  100 mg by mouth every twelve (12) hours Disp #*15 
Tablet Refills:*0

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
- Acute on Chronic Back Pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

You were transferred to ___ on ___ with a severe 
exacerbation of your chronic back pain, urinary incontinence and 
weakness of your legs. We performed imaging studies and excluded 
spinal cord conditions that could cause neurological compromise. 
You were also evaluated by our spine surgeons who felt that 
there was no need for surgical intervention. You are now ready 
for discharge to a rehabilitation facility where you will work 
on improving your mobility and functional status before 
returning home.

It was a pleasure to take care of you during your hospital stay.

Sincerely,
Your ___ Team
 
Followup Instructions:
___